US06727264B1
N-(3-{1-[(3R)-3-(3-ACETYLPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-N,2-DIMETHYLPROPANAMIDE:
Prepared by Procedure T and Scheme AD using N-(3-{1-[(3R)-3-(3-acetylphenoxy)-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide and methyl iodide: ESMS m/e: 513.2 (M+H)+.

reactant | N-(3-{1-[(3R)-3-(3-acetylphenoxy)-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | C(C)(=O)C=1C=C(O[C@H](CCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC1 | C32H38N2O3
reactant | methyl iodide | CI | CH3I
product | N-(3-{1-[(3R)-3-(3-ACETYLPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-N,2-DIMETHYLPROPANAMIDE | C(C)(=O)C=1C=C(O[C@H](CCN2CCC(CC2)C=2C=C(C=CC2)N(C(C(C)C)=O)C)C2=CC=CC=C2)C=CC1 | C33H40N2O3
